US03944557
0.8 gms (.012 mole) of sodium azide was added to an aqueous solution containing 2.6 gms (.01 mole) of 2-amino-6-chloro-5-cyano-1-ethyl-4-ethylamino pyridinium chloride (compound 2 - Table 1) left for 2 hours at room temperature and then cooled. 2.0 gms (70% yield) of 2-amino-6-azido-5-cyano-1-ethyl-4-ethylamino pyridinium chloride crystallised out (MPt 164° - 165°C).

reactant | sodium azide | .012 mole, 0.8 gms | [N-]=[N+]=[N-].[Na+]
reactant | 2-amino-6-chloro-5-cyano-1-ethyl-4-ethylamino pyridinium chloride | .01 mole, 2.6 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCC)C#N)Cl)CC
product | 2-amino-6-azido-5-cyano-1-ethyl-4-ethylamino pyridinium chloride | 2.0 gms, 70% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NCC)C#N)N=[N+]=[N-])CC | InChI=1S/C10H13N7.ClH/c1-3-14-8-5-9(12)17(4-2)10(15-16-13)7(8)6-11;/h5H,3-4H2,1-2H3,(H2,12,14);1H
